US06326369B1
4,5,6,7-Tetramethoxy-2-[3-[4-[(4-piperidinopiperidino)carbonyl]phenoxy]propyl]indan hydrochloride
The mixture of 4-[3-(4,5,6,7-tetramethoxyindan-2-yl)propoxy]benzoic acid (2.00 g), 4-piperidinopiperidine (1.62 g), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (1.84 g), 1-hydroxybenzotriazole monohydrate (1.47 g), and triethylamine (2.01 ml) in THF (40 ml) was stirred at room temperature for 12 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride and dried. The solvent was removed in vacuo. The residue was purified by alumina column chromatography (hexane to hexane:ethyl acetate=1:2) and converted into its hydrochloride, which was further recrystallized from ethanol-diisopropylether to yield the entitled compound (2.85 g) as crystals.

reactant | 4-[3-(4,5,6,7-tetramethoxyindan-2-yl)propoxy]benzoic acid | 2.00 g | COC1=C2CC(CC2=C(C(=C1OC)OC)OC)CCCOC1=CC=C(C(=O)O)C=C1 | C23H28O7
reactant | 4-piperidinopiperidine | 1.62 g | N1(CCCCC1)C1CCNCC1 | C10H20N2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.84 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole monohydrate | 1.47 g | O.ON1N=NC2=C1C=CC=C2
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | triethylamine | 2.01 ml | C(C)N(CC)CC | C6H15N
product | 4,5,6,7-Tetramethoxy-2-[3-[4-[(4-piperidinopiperidino)carbonyl]phenoxy]propyl]indan hydrochloride | 2.85 g | Cl.COC1=C2CC(CC2=C(C(=C1OC)OC)OC)CCCOC1=CC=C(C=C1)C(=O)N1CCC(CC1)N1CCCCC1 | InChI=1S/C33H46N2O6.ClH/c1-37-29-27-21-23(22-28(27)30(38-2)32(40-4)31(29)39-3)9-8-20-41-26-12-10-24(11-13-26)33(36)35-18-14-25(15-19-35)34-16-6-5-7-17-34;/h10-13,23,25H,5-9,14-22H2,1-4H3;1H
